US08791107B2
PREPARATION x16: 5-benzyl-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
To 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 82 mg, 0.362 mmol) in DMF (2 mL) was added N,N-diisopropylethylamine (0.076 mL, 0.434 mmol) and (bromomethyl)benzene (0.047 mL, 0.398 mmol) to give a yellow solution, which was stirred at room temperature for 48 hours. The mixture was subsequently diluted with ethyl acetate and then washed with aqueous saturated NH4Cl (2×5 mL) and brine (2×5 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was loaded onto an ISCO® silica gel cartridge (4 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow solid (55 mg, 48%). 1H NMR (400 MHz, DMSO-d6) δ 2.91-3.10 (m, 2H), 3.10-3.22 (m, 1H), 3.32 (s, 1H), 3.40-3.54 (m, 1H), 3.60-3.75 (m, 1H), 3.81-4.01 (m, 2H), 4.15-4.30 (m, 1H), 4.41 (s, 2H), 7.20-7.42 (m, 6H). ESI-MS m/z [M+H]+ calc'd for C16H17ClN4O, 317.11. found 317.3.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.362 mmol, 82 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | N,N-diisopropylethylamine | 0.434 mmol, 0.076 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (bromomethyl)benzene | 0.398 mmol, 0.047 mL | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzyl-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 55 mg, 48% | C(C1=CC=CC=C1)N1C=2C=NC(=NC2N2C(C1)COCC2)Cl | C16H17ClN4O
